US05187093
A fermentor equipped for continuous culture which contained 1.5 l of a vitamin containing mineral medium (according to Example 1) with 1.5 percent of betaine and 1.0 percent of γ-butyrobetaine-chloride was inoculated with 150 ml of strain 13 (DSM 2903) preculture of the same medium. After 20 hours of aerobic cultivation at 30° C. and pH 7.0, the culture had grown up and the continuous operation was started at a flow rate of 0.1 l/h. The culture solution flowing out of the fermentor was caught in a vessel cooled at 4° C. the cells were removed by centrifugation. According to enzymatic analysis, the supernatant contained 8.8 g of L-carnitine per 1 of culture. This corresponded to a yield of 99.2 percent (proven analytically), calculated on the concentration of the γ-butyrobetaine-chloride used. The solid L-carnitine chloride was isolated from the solution by means of ion chromatography and water separation.

reactant | betaine | C[N+](C)(C)CC(=O)O
reactant | γ-butyrobetaine chloride | C[N+](C)(C)CCCC(=O)[O-].[Cl-]
product | L-carnitine chloride | yield of 99.2 percent | C[N+](C)(C)CC(CC(=O)O)O.[Cl-] | InChI=1S/C7H15NO3.ClH/c1-8(2,3)5-6(9)4-7(10)11;/h6,9H,4-5H2,1-3H3;1H
